US07838522B2
To a mixture of N-(4-methoxycarbonylphenyl)benylamine (25 g, 0.098 mol) in CH2Cl2 (500 ml), was added diisopropyl ethylamine (38 g, 0.294 mol) and (BOC)2O (32 g, 0.147 mol). After stirring at r.t. for 5 h, the solvent was removed under reduce pressure. The crude product was then purified by chromatography using chloroform/methanol (9/1) to afford 4-methoxy carbonyl-[N-(BOC]-N-[benzyl]benzylamine (27 g, 78%) as a liquid.

reactant | N-(4-methoxycarbonylphenyl)benylamine | 0.098 mol, 25 g | COC(=O)C1=CC=C(C=C1)NCC1=CC=CC=C1 | C15H15NO2
reactant | diisopropyl ethylamine | 0.294 mol, 38 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (BOC)2O | 0.147 mol, 32 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | N-(BOC]-N-[benzyl]benzylamine | 27 g, 78% | C(=O)(OC(C)(C)C)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C19H23NO2
